US08895733B2
5-{3-[4-Amino-6-(methyl-phenyl-amino)-[1,3,5]triazin-2-yl]-[1,2,4]oxadiazol-5-yl}-pyridine-2-carboxylic acid dimethylamide
Dimethylamine (248 μL, 0.495 mmol) and bis(trimethylaluminum)-1,4-diazabicyclo[2.2.2]-octane (128 mg, 0.495 mmol) were stirred together in anhydrous toluene (2 mL) at 40 C under nitrogen for 1 h. 5-{3-[4-Amino-6-(methyl-phenyl-amino)-[1,3,5]triazin-2-yl]-[1,2,4]oxadiazol-5-yl}-pyridine-2-carboxylic acid methyl ester (prepared in an analogous manner to Example 279, 80 mg, 0.198 mmol) was added and the reaction stirred at 80 C for approximately 18 h. The mixture was then allowed to cool to room temperature and diluted with EtOAc (20 mL). The solution was then washed with 2M HCl (2×6 mL), saturated aq. sodium bicarbonate (2×6 mL), dried over sodium sulfate and evaporated under vacuum. The crude residue was purified by flash chromatography (0-3% MeOH in DCM) and the material obtained was then further purified by flash chromatography (0-80% EtOAc in heptane) to afford the title compound (10 mg, 12%).

reactant | Dimethylamine | 0.495 mmol, 248 μL | CNC | C2H7N
reactant | DABAL-Me3 | 0.495 mmol, 128 mg | C[Al](C)C.C[Al](C)C.C1CN2CCN1CC2
reactant | 5-{3-[4-Amino-6-(methyl-phenyl-amino)-[1,3,5]triazin-2-yl]-[1,2,4]oxadiazol-5-yl}-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)C1=NC(=NO1)C1=NC(=NC(=N1)N)N(C1=CC=CC=C1)C | C19H16N8O3
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 5-{3-[4-Amino-6-(methyl-phenyl-amino)-[1,3,5]triazin-2-yl]-[1,2,4]oxadiazol-5-yl}-pyridine-2-carboxylic acid dimethylamide | 10 mg, 12% | CN(C(=O)C1=NC=C(C=C1)C1=NC(=NO1)C1=NC(=NC(=N1)N)N(C1=CC=CC=C1)C)C | C20H19N9O2
